US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-1-methyl-1H-pyrazole-4-sulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline (600 mg, 1.8 mmol) and 1-methyl-1H-pyrazole-4-sulfonyl chloride (0.49 g, 2.7 mmol) the title compound was obtained (500 mg, 58.6% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.31 (d, J=5.3 Hz, 1H), 7.72 (d, J=0.9 Hz, 1H), 7.65 (d, J=0.9 Hz, 1H), 7.32-7.37 (m, 1H), 7.21-7.30 (m, 2H), 6.94 (S, 1H), 6.92 (d, J=5.3 Hz, 1H), 3.86 (S, 3H), 3.31-3.41 (m, 1H), 1.44 (d, J=6.8, 6H). MS (ES+): 475 [M+H]+.

reactant | 3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]aniline | 1.8 mmol, 600 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(N)C=CC1 | C16H15ClN4S
reactant | 1-methyl-1H-pyrazole-4-sulfonyl chloride | 2.7 mmol, 0.49 g | CN1N=CC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-1-methyl-1H-pyrazole-4-sulfonamide | 58.6% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NN(C1)C | C20H19ClN6O2S2
